US05360802
Step 2: 1-(2-Methylphenylsulphonylaminocarbonyl)-3-aminobenzene
In the same way as that described in Example 11, Step 2, using 1-(2-methylphenylsulphonylaminocarbonyl)-3-nitrobenzene (3 g, 9.4 mmol), 10% palladium on carbon (0.3 g, 10% (w/w)) in water (2 ml) and ethanol (60 ml), the title compound was afforded as a yellow solid. This was recrystallised from ethanol to give a pale yellow crystalline solid (2.21 g, 8.1%). mp 150°-152° C. 1H NMR (360 MHz, D6-DMSO) δ 2.61(3H, s), 6.78 (1H, d, J=7.8 Hz), 6.97-7.03 (2H, m), 7.12 (1H, t, J=7.8 Hz), 7.39-7.47 (2H, m), 7.58 (1H, t, J=7.5 Hz), 8.02 (1H, d, J =7.9 Hz).

reactant | 1-(2-methylphenylsulphonylaminocarbonyl)-3-nitrobenzene | 9.4 mmol, 3 g | CC1=C(C=CC=C1)S(=O)(=O)NC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H12N2O5S
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | water | 2 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(2-Methylphenylsulphonylaminocarbonyl)-3-aminobenzene | CC1=C(C=CC=C1)S(=O)(=O)NC(=O)C1=CC(=CC=C1)N | C14H14N2O3S
